US07888364B2
Procedure G was used to couple 4-chloro-3-(pyridin-2-yl)aniline (30 mg) and 4-carboxybenzenesulfonamide to produce N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(aminosulfonyl)-benzamide. MS (Q1) 388.0 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 30 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-carboxybenzenesulfonamide | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N | C7H7NO4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(aminosulfonyl)-benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)N)=O)C1=NC=CC=C1 | C18H14ClN3O3S
